US08202858B2
4-({[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamoyl}-methyl)-piperidine-1-carboxylic Acid 4-nitro-benzyl Ester
A solution of 4-nitrobenzyl chloroformate (1.08 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-piperidin-4-yl-acetamide hydrochloride from Example E17 (2.58 mg, 0.005 mmol) in dichloromethane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 1 h then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=658.5

reactant | 4-nitrobenzyl chloroformate | 0.005 mmol, 1.08 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-piperidin-4-yl-acetamide hydrochloride | Cl.CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3CCC(CC3)CNC(CC3CCNCC3)=O
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | 4-({[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamoyl}-methyl)-piperidine-1-carboxylic Acid 4-nitro-benzyl Ester | [N+](=O)([O-])C1=CC=C(COC(=O)N2CCC(CC2)CC(NCC2CCC(CC2)C(=O)N2C3=C(NC=4N(N=CC4C2)C)C=C(C=C3)C)=O)C=C1 | C35H43N7O6
